US07435837B2
Treatment of (±)-{7-[(E)-2-phenylvinyl]-2,3-dihydro-1-benzofuran-2-yl}methyl azide (2.2 g, 7.9 mmol) with palladium on carbon (0.22 g, 10 wt. %) generally according to the procedure described for Example 1 provided 1.1 g (48%) of (±)-1-[7-(2-phenylethyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 155-157° C.; Anal. calcd. for C17H19NOHCl: C, 70.46; H, 6.96; N, 4.83. Found: C, 70.11; H, 7.08; N, 4.62.

reactant | (±)-{7-[(E)-2-phenylvinyl]-2,3-dihydro-1-benzofuran-2-yl}methyl azide | 7.9 mmol, 2.2 g | C1(=CC=CC=C1)/C=C/C1=CC=CC=2CC(OC21)CN=[N+]=[N-] | C17H15N3O
catalyst | palladium on carbon | 0.22 g | [Pd] | Pd
product | (±)-1-[7-(2-phenylethyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 1.1 g, 48% | C1(=CC=CC=C1)CCC1=CC=CC=2CC(OC21)CN | C17H19NO
